*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.3
* < ILD_dielectric_const = 3.8
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param26_0 1 2 3 4 REF
C_C1 1 REF 1.1082599161012pf
C_C2 1 2 15.527958883471pf
C_C3 1 3 0.0215974437887pf
C_C4 1 4 0.2180958441376pf
C_C5 2 REF 1.2935564081176pf
C_C6 2 3 0.1127776211284pf
C_C7 3 REF 0.466830631762pf
C_C8 3 4 6.5057833711992pf
C_C9 4 REF 0.4657174336643pf
L_L1 3 5 1.3008101779749nh
R_RL1 5 4 -1.261994504e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param26_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param26_1 1 2 3 4 REF
C_C1 1 REF 0.8373286808319pf
C_C2 1 2 15.936534472802pf
C_C3 1 3 0.0206934767361pf
C_C4 1 4 0.2206263379223pf
C_C5 2 REF 1.0281511765611pf
C_C6 2 3 0.113168586755pf
C_C7 3 REF 0.4673713216372pf
C_C8 3 4 4.8124122162642pf
C_C9 4 REF 0.465259139776pf
L_L1 3 5 1.3021803773849nh
R_RL1 5 4 4.1762191586e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param26_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param26_2 1 2 3 4 REF
C_C1 1 REF 0.6363957437757pf
C_C2 1 2 16.3418953965pf
C_C3 1 3 0.0196811206103pf
C_C4 1 4 0.2237554644841pf
C_C5 2 REF 0.834653339523pf
C_C6 2 3 0.1136619041954pf
C_C7 3 REF 0.4679173202858pf
C_C8 3 4 3.6302030744865pf
C_C9 4 REF 0.4649645478225pf
L_L1 3 5 1.3033209683765nh
R_RL1 5 4 2.4626699997e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param26_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param26_3 1 2 3 4 REF
C_C1 1 REF 0.4656538730535pf
C_C2 1 2 16.860574826855pf
C_C3 1 3 0.018257182767pf
C_C4 1 4 0.2285003619392pf
C_C5 2 REF 0.6747148721939pf
C_C6 2 3 0.1144380822021pf
C_C7 3 REF 0.4685989201189pf
C_C8 3 4 2.6132878898389pf
C_C9 4 REF 0.4647882067982pf
L_L1 3 5 1.3044744287212nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param26_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param26_4 1 2 3 4 REF
C_C1 1 REF 0.3421236279585pf
C_C2 1 2 17.510877538954pf
C_C3 1 3 0.0163523178962pf
C_C4 1 4 0.2352080802531pf
C_C5 2 REF 0.5648789680318pf
C_C6 2 3 0.1155997412673pf
C_C7 3 REF 0.4693830445844pf
C_C8 3 4 1.7987613384266pf
C_C9 4 REF 0.464780357464pf
L_L1 3 5 1.3056258136312nh
R_RL1 5 4 -1.55646994e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param26_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param26_5 1 2 3 4 REF
C_C1 1 REF 0.2768636075805pf
C_C2 1 2 18.215836890496pf
C_C3 1 3 0.0142049199308pf
C_C4 1 4 0.2430558148443pf
C_C5 2 REF 0.5136679688921pf
C_C6 2 3 0.1170564823615pf
C_C7 3 REF 0.4701155655747pf
C_C8 3 4 1.2602304161863pf
C_C9 4 REF 0.4649385869809pf
L_L1 3 5 1.3065542033444nh
R_RL1 5 4 -3.35919475e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param26_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param26_6 1 2 3 4 REF
C_C1 1 REF 0.245662585281pf
C_C2 1 2 18.98929210431pf
C_C3 1 3 0.0118012333281pf
C_C4 1 4 0.2520095976225pf
C_C5 2 REF 0.4968352507514pf
C_C6 2 3 0.1188354759205pf
C_C7 3 REF 0.4707830426776pf
C_C8 3 4 0.8917244954408pf
C_C9 4 REF 0.4652115334522pf
L_L1 3 5 1.3073151360565nh
R_RL1 5 4 -4.865475773e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param26_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param26_7 1 2 3 4 REF
C_C1 1 REF 0.2323659261748pf
C_C2 1 2 19.997109219583pf
C_C3 1 4 0.2639037075864pf
C_C4 2 REF 0.5011000972381pf
C_C5 2 3 0.1213731963131pf
C_C6 3 REF 0.4714680248374pf
C_C7 3 4 0.5980582292184pf
C_C8 4 REF 0.4656232675581pf
L_L1 3 5 1.3080307181568nh
R_RL1 5 4 -6.233198064e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param26_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param26_8 1 2 3 4 REF
C_C1 1 REF 0.2302036826208pf
C_C2 1 2 21.283031932446pf
C_C3 1 4 0.2791680321554pf
C_C4 2 REF 0.5203269389079pf
C_C5 2 3 0.1248743725222pf
C_C6 3 REF 0.4721131851354pf
C_C7 3 4 0.3722877693675pf
C_C8 4 REF 0.4661424928073pf
L_L1 3 5 1.3087034501076nh
R_RL1 5 4 -7.366492196e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param26_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param26_9 1 2 3 4 REF
C_C1 1 REF 0.2325725383565pf
C_C2 1 2 22.939403454572pf
C_C3 1 4 0.2987474787537pf
C_C4 2 REF 0.5493604666229pf
C_C5 2 3 0.1297313342604pf
C_C6 3 REF 0.4726480994096pf
C_C7 3 4 0.2062365855775pf
C_C8 4 REF 0.4667188040607pf
L_L1 3 5 1.3092940542578nh
R_RL1 5 4 -8.06909145e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param26_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param26_10 1 2 3 4 REF
C_C1 1 REF 0.2334021625595pf
C_C2 1 2 25.053214574302pf
C_C3 1 4 0.3234444006953pf
C_C4 2 REF 0.5834250985411pf
C_C5 2 3 0.1363395152788pf
C_C6 3 REF 0.4730025592928pf
C_C7 3 4 0.0863196253343pf
C_C8 4 REF 0.4672744637174pf
L_L1 1 5 67.146247418429nh
R_RL1 5 2 4.5680571903822
L_L2 3 6 1.3097860221965nh
R_RL2 6 4 -8.238136161e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param26_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param26_11 1 2 3 4 REF
C_C1 1 REF 0.2281024920141pf
C_C2 1 2 27.821596480541pf
C_C3 1 4 0.3552229792081pf
C_C4 2 REF 0.620586583033pf
C_C5 2 3 0.1454935667367pf
C_C6 3 REF 0.4731076090945pf
C_C7 4 REF 0.4677381746765pf
L_L1 1 5 42.440637840885nh
R_RL1 5 2 0.0697826733417
L_L2 3 6 1.31016920902nh
R_RL2 6 4 -7.75257804e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param26_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param26_12 1 2 3 4 REF
C_C1 1 REF 0.2133923354144pf
C_C2 1 2 31.512593604002pf
C_C3 1 4 0.3967702686555pf
C_C4 2 REF 0.6609397588608pf
C_C5 2 3 0.1582147235275pf
C_C6 3 REF 0.4729338544288pf
C_C7 4 REF 0.4680724514263pf
L_L1 1 5 26.456803123839nh
R_RL1 5 2 -1.518233587128
L_L2 3 6 1.3100056027427nh
R_RL2 6 4 -6.578088505e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param26_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param26_13 1 2 3 4 REF
C_C1 1 REF 0.184871386831pf
C_C2 1 2 36.738021268131pf
C_C3 1 4 0.4545020090256pf
C_C4 2 REF 0.7081145651821pf
C_C5 2 3 0.1767191825645pf
C_C6 3 REF 0.4724669763428pf
C_C7 4 REF 0.4682927333688pf
R_R1 1 2 575.86779711061
L_L1 1 5 16.115997530879nh
R_RL1 5 2 -1.40027491408
L_L2 3 6 1.3096583185372nh
R_RL2 6 4 -4.751484266e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param26_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param26_14 1 2 3 4 REF
C_C1 1 REF 0.1358226275014pf
C_C2 1 2 44.558253081067pf
C_C3 1 4 0.5397610884664pf
C_C4 2 REF 0.7697270507552pf
C_C5 2 3 0.2047523161638pf
C_C6 3 REF 0.4717290743643pf
C_C7 4 REF 0.4684971180649pf
R_R1 1 2 310.91643457425
L_L1 1 5 9.569123416917nh
R_RL1 5 2 -0.369136814101
L_L2 3 6 1.3091088353983nh
R_RL2 6 4 -2.340251012e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param26_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param26_15 1 2 3 4 REF
C_C1 1 REF 0.048956443321pf
C_C2 1 2 57.568909345932pf
C_C3 1 4 0.6805774811408pf
C_C4 2 REF 0.8643599988055pf
C_C5 2 3 0.2514892971788pf
C_C6 3 REF 0.4707129517636pf
C_C7 4 REF 0.4689150856445pf
R_R1 1 2 189.86637684866
L_L1 1 5 5.7411013755012nh
R_RL1 5 2 -0.673539134742
L_L2 3 6 1.3081560149994nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param26_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param26_16 1 2 3 4 REF
C_C1 1 2 84.278159030865pf
C_C2 1 4 0.9690203360092pf
C_C3 2 REF 1.0520803248655pf
C_C4 2 3 0.3471460584244pf
C_C5 3 REF 0.469233243112pf
C_C6 4 REF 0.4702000722pf
R_R1 1 2 116.07923484202
L_L1 1 5 2.470362121909nh
R_RL1 5 2 -0.337519783933
L_L2 1 6 99.486393710047nh
R_RL2 6 4 -0.31779500623
L_L3 2 7 99.493440378348nh
R_RL3 7 4 0.0041241471012
L_L4 3 8 1.3062560011014nh
R_RL4 8 4 3.2448112876e-5
Kn_K1 L_L1 L_L2 0.0785647769254
Kn_K2 L_L1 L_L3 -0.079011470463
Kn_K3 L_L2 L_L3 0.9875848625063
Kn_K4 L_L2 L_L4 0.0234641671428
Kn_K5 L_L3 L_L4 0.0235651632011
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param26_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param26_17 1 2 3 4 REF
C_C1 1 2 156.83490869099pf
C_C2 1 4 1.7529869059019pf
C_C3 2 REF 1.5573686473139pf
C_C4 2 3 0.6060435532683pf
C_C5 3 REF 0.4665688451697pf
C_C6 4 REF 0.4748291639329pf
R_R1 1 2 61.072654958576
L_L1 1 5 0.8980302167232nh
R_RL1 5 2 -0.105085870187
L_L2 1 6 41.773889751709nh
R_RL2 6 3 -0.080320270984
L_L3 1 7 41.058037488107nh
R_RL3 7 4 -0.081282174919
L_L4 2 8 41.872541720177nh
R_RL4 8 3 0.0014638150657
L_L5 2 9 41.160065506412nh
R_RL5 9 4 0.0014862888446
L_L6 3 10 1.3012564224839nh
R_RL6 10 4 5.7459644957e-5
Kn_K1 L_L1 L_L2 0.0652565932967
Kn_K2 L_L1 L_L3 0.0655450204176
Kn_K3 L_L1 L_L4 -0.081267436967
Kn_K4 L_L1 L_L5 -0.082245432952
Kn_K5 L_L2 L_L3 0.9843271596991
Kn_K6 L_L2 L_L4 0.9892646625716
Kn_K7 L_L2 L_L5 0.9734674253187
Kn_K8 L_L2 L_L6 -0.136793481479
Kn_K9 L_L3 L_L4 0.9735680564936
Kn_K10 L_L3 L_L5 0.9890782252339
Kn_K11 L_L3 L_L6 0.0400447209207
Kn_K12 L_L4 L_L5 0.9843646076034
Kn_K13 L_L4 L_L6 -0.136403560904
Kn_K14 L_L5 L_L6 0.0402257116261
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param26_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param26_18 1 2 3 4 REF
C_C1 1 2 564.59545045345pf
C_C2 1 4 6.1633867122646pf
C_C3 2 REF 4.3966487295778pf
C_C4 2 3 2.0580560224126pf
C_C5 3 REF 0.4556172558299pf
C_C6 4 REF 0.5046699445655pf
R_R1 1 2 15.761325002079
L_L1 1 5 20.194564565352nh
R_RL1 5 REF -0.392035457018
L_L2 1 6 0.1687236120974nh
R_RL2 6 2 -0.019336428315
L_L3 1 7 9.5940859879659nh
R_RL3 7 3 -0.011628025523
L_L4 1 8 8.9309456971781nh
R_RL4 8 4 -0.012464970846
L_L5 2 9 20.083855312043nh
R_RL5 9 REF -0.413154074368
L_L6 2 10 9.6311991782298nh
R_RL6 10 3 -5.141698072e-4
L_L7 2 11 8.9725733214686nh
R_RL7 11 4 -3.860642396e-4
L_L8 3 12 29.602605491733nh
R_RL8 12 REF -0.415434475109
L_L9 3 13 1.2735426787223nh
R_RL9 13 4 6.2255724406e-5
L_L10 4 14 28.931308741337nh
R_RL10 14 REF -0.416144788998
Kn_K1 L_L1 L_L2 0.0756906630476
Kn_K2 L_L1 L_L5 0.9958148283528
Kn_K3 L_L1 L_L8 0.822142613041
Kn_K4 L_L1 L_L10 0.8314573342199
Kn_K5 L_L2 L_L3 0.0517214331191
Kn_K6 L_L2 L_L4 0.0517684531823
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.080735570138
Kn_K9 L_L2 L_L7 -0.085480810865
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9318501134894
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9912257164149
Kn_K15 L_L3 L_L7 0.9225934635884
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.277025650174
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9232010387409
Kn_K21 L_L4 L_L7 0.9905786301885
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0904962852017
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8213742173053
Kn_K26 L_L5 L_L10 0.8305859696935
Kn_K27 L_L6 L_L7 0.9321281767716
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.275846879827
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0909538565877
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1583733249402
Kn_K35 L_L8 L_L10 0.9783069919427
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param26_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param26_19 1 2 3 4 REF
C_C1 1 REF 13.476500951033pf
C_C2 1 3 6.737214313049pf
C_C3 2 4 20.293883525769pf
C_C4 3 REF 0.5151919685242pf
C_C5 4 REF 0.3204621820591pf
R_R1 1 2 -7.940705336442
R_R2 1 4 -716.6245840312
R_R3 2 4 718.07425803474
L_L1 1 5 4.6629809067248nh
R_RL1 5 REF -0.022107775604
L_L2 1 6 0.2769705197883nh
R_RL2 6 2 0.1586326488721
L_L3 1 7 2.9564116875357nh
R_RL3 7 3 0.0747970543281
L_L4 1 8 2.3970883277054nh
R_RL4 8 4 0.0986660362992
L_L5 2 9 4.9001843041493nh
R_RL5 9 REF 0.1529796231301
L_L6 2 10 2.8789613086543nh
R_RL6 10 3 0.0156724673936
L_L7 2 11 2.2751754908603nh
R_RL7 11 4 0.0071169703635
L_L8 3 12 7.6163083173001nh
R_RL8 12 REF 0.0630923883744
L_L9 3 13 1.1767950224094nh
R_RL9 13 4 0.0017213060694
L_L10 4 14 7.0653058522078nh
R_RL10 14 REF 0.0885802089385
Kn_K1 L_L1 L_L2 0.0174962742821
Kn_K2 L_L1 L_L5 0.9713366217467
Kn_K3 L_L1 L_L8 0.7821965695514
Kn_K4 L_L1 L_L10 0.8128494706636
Kn_K5 L_L2 L_L3 0.1958349035779
Kn_K6 L_L2 L_L4 0.2447694029582
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.11171771903
Kn_K9 L_L2 L_L7 -0.0976650262
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 0.0389400305165
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.7844754047968
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9526198465272
Kn_K16 L_L3 L_L7 0.7368906769795
Kn_K17 L_L3 L_L8 0.9823477851179
Kn_K18 L_L3 L_L9 -0.465389384872
Kn_K19 L_L3 L_L10 1.0
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.7190374675512
Kn_K22 L_L4 L_L7 0.9410406767697
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.183820780522
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L6 0.021677029244
Kn_K27 L_L5 L_L7 0.0164801800742
Kn_K28 L_L5 L_L8 0.7887826344209
Kn_K29 L_L5 L_L9 -0.010990320509
Kn_K30 L_L5 L_L10 0.8234480268146
Kn_K31 L_L6 L_L7 0.7770295799327
Kn_K32 L_L6 L_L8 1.0
Kn_K33 L_L6 L_L9 -0.48368584131
Kn_K34 L_L6 L_L10 1.0
Kn_K35 L_L7 L_L8 1.0
Kn_K36 L_L7 L_L9 0.1750949985566
Kn_K37 L_L7 L_L10 1.0
Kn_K38 L_L8 L_L9 0.2885626866763
Kn_K39 L_L8 L_L10 0.9204941552183
Kn_K40 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param26_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param26_20 1 2 3 4 REF
C_C1 1 2 669.22302067101pf
C_C2 1 4 7.2894658896586pf
C_C3 2 REF 5.1218402884877pf
C_C4 2 3 2.431343003791pf
C_C5 3 REF 0.4518389601341pf
C_C6 4 REF 0.5109590630341pf
R_R1 1 2 35.904264214789
L_L1 1 5 11.466239992026nh
R_RL1 5 REF -0.103447784496
L_L2 1 6 0.0668580094314nh
R_RL2 6 2 -2.80217799e-3
L_L3 1 7 5.8094173605697nh
R_RL3 7 3 -1.444465894e-3
L_L4 1 8 5.1601322308353nh
R_RL4 8 4 -1.696993563e-3
L_L5 2 9 11.374558708996nh
R_RL5 9 REF -0.106139879014
L_L6 2 10 5.8431712031348nh
R_RL6 10 3 1.4663295369e-4
L_L7 2 11 5.2010505750403nh
R_RL7 11 4 1.308620066e-4
L_L8 3 12 17.172745926513nh
R_RL8 12 REF -0.107724289123
L_L9 3 13 1.2475778424193nh
R_RL9 13 4 4.9951020363e-5
L_L10 4 14 16.51564268998nh
R_RL10 14 REF -0.108106588914
Kn_K1 L_L1 L_L2 0.0905356627667
Kn_K2 L_L1 L_L5 0.9970809013413
Kn_K3 L_L1 L_L8 0.8134620979727
Kn_K4 L_L1 L_L10 0.8292026923518
Kn_K5 L_L2 L_L3 0.0265588738791
Kn_K6 L_L2 L_L4 0.0220814320185
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.08048558795
Kn_K9 L_L2 L_L7 -0.091384224557
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.012403534051
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.8878255816842
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9942665612724
Kn_K16 L_L3 L_L7 0.8813150717227
Kn_K17 L_L3 L_L8 1.0
Kn_K18 L_L3 L_L9 -0.35229448757
Kn_K19 L_L3 L_L10 1.0
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.8828955487017
Kn_K22 L_L4 L_L7 0.9935550087455
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.1179015394092
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.8122463795693
Kn_K27 L_L5 L_L10 0.8277005214966
Kn_K28 L_L6 L_L7 0.888541023923
Kn_K29 L_L6 L_L8 1.0
Kn_K30 L_L6 L_L9 -0.349948699468
Kn_K31 L_L6 L_L10 1.0
Kn_K32 L_L7 L_L8 1.0
Kn_K33 L_L7 L_L9 0.1188431345034
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.2057493979998
Kn_K36 L_L8 L_L10 0.9631503628187
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param26_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param26_21 1 2 3 4 REF
C_C1 1 2 95.724340989506pf
C_C2 1 4 1.0822127856911pf
C_C3 2 REF 1.1292786529052pf
C_C4 2 3 0.3893097444775pf
C_C5 3 REF 0.4658218444446pf
C_C6 4 REF 0.4672800108554pf
R_R1 1 2 130.11616293987
L_L1 1 5 0.3353145864432nh
R_RL1 5 2 -0.023943765106
L_L2 1 6 34.353262880575nh
R_RL2 6 3 0.0029718261037
L_L3 1 7 33.598293319567nh
R_RL3 7 4 0.0025188871766
L_L4 2 8 34.645283001795nh
R_RL4 8 3 0.0015961680147
L_L5 2 9 33.899007122091nh
R_RL5 9 4 0.0016244700749
L_L6 3 10 1.2964113227309nh
R_RL6 10 4 1.5404940026e-5
Kn_K1 L_L1 L_L4 -0.092028223919
Kn_K2 L_L1 L_L5 -0.094324995454
Kn_K3 L_L2 L_L3 0.9809820846031
Kn_K4 L_L2 L_L4 0.9951491785263
Kn_K5 L_L2 L_L5 0.9759869640269
Kn_K6 L_L2 L_L6 -0.153695412319
Kn_K7 L_L3 L_L4 0.9763319786449
Kn_K8 L_L3 L_L5 0.9950420530534
Kn_K9 L_L3 L_L6 0.0410196299446
Kn_K10 L_L4 L_L5 0.9811446691783
Kn_K11 L_L4 L_L6 -0.152397698374
Kn_K12 L_L5 L_L6 0.041492990175
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param26_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param26_22 1 2 3 4 REF
C_C1 1 REF 0.2479814449504pf
C_C2 1 2 33.771560009213pf
C_C3 1 4 0.4106151108894pf
C_C4 2 REF 0.7036267413491pf
C_C5 2 3 0.16739073478pf
C_C6 3 REF 0.4670004376814pf
C_C7 4 REF 0.4621252018911pf
R_R1 1 2 318.26337628633
L_L1 1 5 0.7386334113553nh
R_RL1 5 2 7.8483537891e-5
L_L2 3 6 1.3018969217167nh
R_RL2 6 4 -3.545131358e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param26_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param26_23 1 2 3 4 REF
C_C1 1 REF 0.375858043327pf
C_C2 1 2 16.231644453563pf
C_C3 1 3 0.040377146484pf
C_C4 1 4 0.2204710468716pf
C_C5 2 REF 0.5902372021908pf
C_C6 2 3 0.1028890569314pf
C_C7 3 REF 0.466558572148pf
C_C8 4 REF 0.4598593070717pf
R_R1 1 2 788.01135397732
L_L1 1 5 1.0923912650896nh
R_RL1 5 2 -0.021588981937
L_L2 3 6 1.3012390131567nh
R_RL2 6 4 -8.109045325e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param26_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param26_24 1 2 3 4 REF
C_C1 1 REF 0.4271228847247pf
C_C2 1 2 9.5004765510756pf
C_C3 1 3 0.0707280343303pf
C_C4 1 4 0.1481017606192pf
C_C5 2 REF 0.5531656713312pf
C_C6 2 3 0.0762776494324pf
C_C7 3 REF 0.4648876495967pf
C_C8 4 REF 0.4573548431325pf
L_L1 1 5 1.6362298485547nh
R_RL1 5 2 -9.886155708e-3
L_L2 3 6 1.2990632196407nh
R_RL2 6 4 -3.917426068e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param26_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param26_25 1 2 3 4 REF
C_C1 1 REF 0.4546673119967pf
C_C2 1 2 6.722774719133pf
C_C3 1 3 0.0893075313336pf
C_C4 1 4 0.115612967406pf
C_C5 2 REF 0.544380180029pf
C_C6 2 3 0.0621125614343pf
C_C7 2 4 0.046134429577pf
C_C8 3 REF 0.4629412181645pf
C_C9 4 REF 0.4548536783754pf
L_L1 1 5 1.8474926225719nh
R_RL1 5 2 -1.508830538e-3
L_L2 3 6 1.2962752113834nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param26_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param26_26 1 2 3 4 REF
C_C1 1 REF 0.4669751884168pf
C_C2 1 2 5.9393223589208pf
C_C3 1 3 0.1000302931021pf
C_C4 1 4 0.1036170641726pf
C_C5 2 REF 0.546252386511pf
C_C6 2 3 0.0546582751695pf
C_C7 2 4 0.061584022292pf
C_C8 3 REF 0.4615800179953pf
C_C9 4 REF 0.4531834984979pf
L_L1 1 5 1.9291368362357nh
R_RL1 5 2 -0.028754173498
L_L2 3 6 1.2950887786008nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param26_26

